US04179563
A solution of 110 g of 3-(m-chlorophenoxy)pyridine [Agr. Biol. Chem., 34, 68 (1970)] at 35° C. in 125 ml of glacial acetic acid is treated with 112 g of 40% peracetic acid in acetic acid in four equal portions. The mixture is held at 27° C. for 16 hours and heated at reflux for 1 hour. The mixture is cooled to 70° C., 100 ml of isopropanol is added and the mixture is heated at 95° C. for 1 hour. The warm mixture is concentrated at reduced pressure, dissolved in 500 ml of dichloromethane and extracted with excess 25% sodium hydroxide solution. The dichloromethane is removed at reduced pressure and the 3-(m-chlorophenoxy)pyridine N-oxide is isolated by distillation; 150°-152° C. at 0.15 mm, mp 72°-75° C.

reactant | 3-(m-chlorophenoxy)pyridine | 110 g | ClC=1C=C(OC=2C=NC=CC2)C=CC1 | C11H8ClNO
reactant | peracetic acid | 112 g | C(C)(=O)OO | C2H4O3
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
product | 3-(m-chlorophenoxy)pyridine N-oxide | ClC=1C=C(OC=2C=[N+](C=CC2)[O-])C=CC1 | C11H8ClNO2
